US05990146
5-Hydroxy-1-phenylbenzimidazole-6-carboxylic acid Hydrobromide by the Method of Scheme 3
A solution of 5-methoxy-1-phenylbenzimidazole-6-carboxylic acid hydrochloride (0.60 g, 2.24 mmol) in a 33% solution of HBr in glacial acetic acid (50 mL) was refluxed for 30 hours. After cooling to room temperature, the resulting precipitate of the hydrobromide salt of Example 52 was filtered off (0.51 g, 68%): mp 288-290° C. (dec.).

reactant | 5-methoxy-1-phenylbenzimidazole-6-carboxylic acid hydrochloride | 2.24 mmol, 0.60 g | Cl.COC1=CC2=C(N(C=N2)C2=CC=CC=C2)C=C1C(=O)O
reactant | HBr | Br | BrH
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | 5-Hydroxy-1-phenylbenzimidazole-6-carboxylic acid Hydrobromide | Br.OC1=CC2=C(N(C=N2)C2=CC=CC=C2)C=C1C(=O)O | InChI=1S/C14H10N2O3.BrH/c17-13-7-11-12(6-10(13)14(18)19)16(8-15-11)9-4-2-1-3-5-9;/h1-8,17H,(H,18,19);1H
